US07834194B2
cis-1-{4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexy}3-(3-chloro-benzo[b]thiophen-2-ylmethyl)-piperidin-2-one
Place cis-1-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-piperidin-2-one, (300 mg, 0.96 mmol) in 7.0 mL of THF, cool to −78° C. and treat with 2.0 M LDA (0.72 mL, 1.5 mmol). Stir for 5.0 minutes, treat with 2-bromomethyl-3-chloro-benzo[b]thiophene (250 mg, 0.96 mmol) and stir at −78° C. for five hours, and warm to room temperature. Quench reaction with ammonium chloride, extract with dichloromethane, dry over sodium sulfate and purify via silica chromatography (ethyl acetate/hexanes 0-25%) affords 166 mg (35%).

reactant | cis-1-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-piperidin-2-one | 0.96 mmol, 300 mg | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(CCCC1)=O)(C)C | C17H33NO2Si
reactant | LDA | 1.5 mmol, 2.0 M, 0.72 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromomethyl-3-chloro-benzo[b]thiophene | 0.96 mmol, 250 mg | BrCC1=C(C2=C(S1)C=CC=C2)Cl | C9H6BrClS
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
product | cis-1-{4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexy}3-(3-chloro-benzo[b]thiophen-2-ylmethyl)-piperidin-2-one | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(C(CCC1)CC1=C(C2=C(S1)C=CC=C2)Cl)=O)(C)C | C26H38ClNO2SSi
